US07211573B2
1.30 g (4.00 mmol) racemic (2R,3S and 2S,3R)-3-Cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid in 4 ml dimethylformamide were added at 0° C. to 0.37 g (8.48 mmol) sodium hydride (55%) in 4 ml dimethylformamide. The suspension was stirred for 2 hours and then 0.96 ml (8.8 mmol) 2,5-difluoro-nitrobenzene in 3.4 ml dimethylformamide were added. After stirring overnight the mixture was poured on ice/water. The pH was adjusted to 1 by adding aqueous hydrochloric acid. Extraction with ethylacetate and chromatography on silicagel with diethylether/heptane (25:75 to 100:0) yielded 1.57 g (85%) racemic (2R,3S and 2S,3R)-3-cyclopropyl-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid as light yellow foam, MS m/e (%): 465.0 (M+H+, 100).

reactant | 3-Cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid | C1(CC1)C(C(C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C20H23NO3
reactant | sodium hydride | 8.48 mmol | [H-].[Na+]
reactant | 2,5-difluoro-nitrobenzene | 8.8 mmol, 0.96 ml | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.4 ml | CN(C=O)C | C3H7NO
product | 3-cyclopropyl-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid | C1(CC1)C(C(C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C26H25FN2O5
